US07560475B2
4-(trifluoromethyl)piperidine hydrochloride:
Under atmosphere of argon, a solution of 4-(trifluoromethyl)pyridine (9.33 g) in methanol (80 mL) was added by concentrated hydrochloric acid (16 mL) and platinum oxide (510 mg) and stirred for three days at room temperature under hydrogen pressure. The reaction mixture was filtrated by celite (trade name) and the filtrate was concentrated. The residue was added by saturated sodium dicarbonate aqueous solution and extracted by ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and then filtrated. The filtrate was added by 4N hydrogen chloride/ethyl acetate solution (50 mL) and then concentrated to give the title compound (13.0 g) having the following physical data.

reactant | 4-(trifluoromethyl)pyridine | 9.33 g | FC(C1=CC=NC=C1)(F)F | C6H4F3N
reactant | hydrochloric acid | 16 mL | Cl | ClH
solvent | methanol | 80 mL | CO | CH4O
catalyst | platinum oxide | 510 mg | [Pt]=O
product | 4-(trifluoromethyl)piperidine hydrochloride | 13.0 g | Cl.FC(C1CCNCC1)(F)F | InChI=1S/C6H10F3N.ClH/c7-6(8,9)5-1-3-10-4-2-5;/h5,10H,1-4H2;1H
